US04496567
Reaction of 2-(3-dimethylaminomethylbenzylthio)ethylamine by heating under reflux for 40 hours in dry pyridine with 5-(3-methoxybenzyl)-2-methylthio-4-pyrimidone gives 2-[2-(3-dimethylaminomethylbenzylthio)ethylamino]-5-(3-methoxybenzyl)-4-pyrimidone.

reactant | 2-(3-dimethylaminomethylbenzylthio)ethylamine | CN(C)CC=1C=C(CSCCN)C=CC1 | C12H20N2S
reactant | 5-(3-methoxybenzyl)-2-methylthio-4-pyrimidone | COC=1C=C(CC=2C(NC(=NC2)SC)=O)C=CC1 | C13H14N2O2S
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 2-[2-(3-dimethylaminomethylbenzylthio)ethylamino]-5-(3-methoxybenzyl)-4-pyrimidone | CN(C)CC=1C=C(CSCCNC2=NC=C(C(N2)=O)CC2=CC(=CC=C2)OC)C=CC1 | C24H30N4O2S
